US08859605B2
Step a) Acetoxy-(1-tert-butoxycarbonylamino-cyclobutyl)-acetic acid BB6-a
(1-Tert-butoxycarbonylaminocyclobutyl)-hydroxyacetic acid (201.5 mg, 0.822 mmol) was stirred with acetic anhydride (95 mL) in pyridine (1.5 mL) for 24 h. The mixture was first concentrated under vacuum, and then diluted with 5 mL EtOAc. The organic solution was washed with 1N HCl (2 mL) followed by saturated aqueous NaCl (2 mL), dried (Na2SO4), and evaporated under vacuum which gave the title compound. LC-UV/MS API-ES− m/z 286 [M−H]−1H NMR (400 MHz, DMSO-d6) δ ppm 7.11 (s, 1H), 5.00 (s, 1H, CHOAc), 2.28 (m, 2H), 2.07 (s, 3H, Me), 2.04 (m, 2H), 1.81 (m, 1H), 1.67 (m, 1H), 1.35 (s, 9H, Boc).

reactant | (1-Tert-butoxycarbonylaminocyclobutyl)-hydroxyacetic acid | 0.822 mmol, 201.5 mg | C(C)(C)(C)OC(=O)NC1(CCC1)C(C(=O)O)O | C11H19NO5
reactant | acetic anhydride | 95 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | Acetoxy-(1-tert-butoxycarbonylamino-cyclobutyl)-acetic acid | C(C)(=O)OC(C(=O)O)C1(CCC1)NC(=O)OC(C)(C)C | C13H21NO6
